US06248755B1
When 1.4 g of 1-benzyl-4-hydrazinopiperidine and 2.0 g of ethyl 2-phenylacetoacetate were used in the procedure of Example 124, Step A, there was obtained 1.84 g of 1-benzyl-4-(5-methyl-4-phenyl-1H-pyrazol-3(2H)-on-2-yl)-piperidine. ESI-MS 348.2 (M+H); HPLC A: 1.95 min.

reactant | 1-benzyl-4-hydrazinopiperidine | 1.4 g | C(C1=CC=CC=C1)N1CCC(CC1)NN | C12H19N3
reactant | ethyl 2-phenylacetoacetate | 2.0 g | C1(=CC=CC=C1)C(C(=O)OCC)C(=O)C | C12H14O3
product | 1-benzyl-4-(5-methyl-4-phenyl-1H-pyrazol-3(2H)-on-2-yl)-piperidine | 1.84 g | C(C1=CC=CC=C1)N1CCC(CC1)N1NC(=C(C1=O)C1=CC=CC=C1)C | C22H25N3O
